US06855710B2
(Z)-3-[1-(4-aminomethyl-phenylamino]-1-phenyl-methylidene]-5-nitro-2-indolinone-hydrochloride
Prepared analogously to Example 29a from (Z)-3-[1-(4-tert.butoxycarbonylaminomethyl-phenylamino)-1-phenyl-methylidene]-5-nitro-2-indolinone and ethyl acetate/hydrogen chloride.

reactant | (Z)-3-[1-(4-tert.butoxycarbonylaminomethyl-phenylamino)-1-phenyl-methylidene]-5-nitro-2-indolinone | C(C)(C)(C)OC(=O)NCC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C27H26N4O5
reactant | ethyl acetate hydrogen chloride | C(C)(=O)OCC.Cl
product | (Z)-3-[1-(4-aminomethyl-phenylamino]-1-phenyl-methylidene]-5-nitro-2-indolinone-hydrochloride | Cl.NCC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | InChI=1S/C22H18N4O3.ClH/c23-13-14-6-8-16(9-7-14)24-21(15-4-2-1-3-5-15)20-18-12-17(26(28)29)10-11-19(18)25-22(20)27;/h1-12,24H,13,23H2,(H,25,27);1H/b21-20-;
